US09029391B2
[(1,1-dimethylethyl)oxy][4-(3,4-dimethylphenyl)-2-methyl-7-(2-methyl-3-furanyl)-1-oxo-1,2-dihydro-3-isoquinolinyl]acetic acid
The title compound was prepared in two steps in a manner similar to that described in Example 191 from methyl [7-bromo-4-(3,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinyl][(1,1-dimethylethyl)oxy]acetate and 4,4,5,5-tetramethyl-2-(2-methyl-3-furanyl)-1,3,2-dioxaborolane and was isolated as a pale yellow solid (10 mg, 49%) after reverse phase chromatography: 1H NMR (400 MHz, CHLOROFORM-d) δ=8.58-8.46 (m, 1 H), 7.62-7.53 (m, 1 H), 7.46-7.33 (m, 2 H), 7.32-7.24 (m, 1 H), 7.24-7.05 (m, 2 H), 6.62 (t, J=1.9 Hz, 1 H), 5.37 (s, 1 H), 3.71 (d, J=1.2 Hz, 3 H), 2.51 (d, J=2.3 Hz, 3 H), 2.37 (d, J=1.2 Hz, 3 H), 2.33 (d, J=2.0 Hz, 3 H), 1.09 (d, J=4.5 Hz, 9 H); LC/MS (m/z) ES+=474 (M+1).

reactant | methyl [7-bromo-4-(3,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinyl][(1,1-dimethylethyl)oxy]acetate | BrC1=CC=C2C(=C(N(C(C2=C1)=O)C)C(C(=O)OC)OC(C)(C)C)C1=CC(=C(C=C1)C)C | C25H28BrNO4
reactant | 4,4,5,5-tetramethyl-2-(2-methyl-3-furanyl)-1,3,2-dioxaborolane | CC1(OB(OC1(C)C)C1=C(OC=C1)C)C | C11H17BO3
product | [(1,1-dimethylethyl)oxy][4-(3,4-dimethylphenyl)-2-methyl-7-(2-methyl-3-furanyl)-1-oxo-1,2-dihydro-3-isoquinolinyl]acetic acid | CC(C)(C)OC(C(=O)O)C=1N(C(C2=CC(=CC=C2C1C1=CC(=C(C=C1)C)C)C1=C(OC=C1)C)=O)C | C29H31NO5
